US06159990
To a solution of 3-amino-propyl-4,4-diphenyl piperidine (0.04 g, 0.1 mmol) in 5 mL of THF was added 4-(3-chloro-4-fluorophenyl)-2-oxo-oxazolidine-3-carboxylic acid-4-nitro-phenyl ester (0.04 g, 0.12 mmol) and the resulting yellow solution was stirred under argon atmosphere for 3 h at room temperature. The solvent was removed in vacuo and the residue was purified by column chromatography over silica gel with 50% hexane/EtOAC followed by 5% MeOH in EtOAC as the eluting systems (Rf =0.45, 1:3 MeOH/EtOAC) to obtain 4-(3-Chloro-4-fluoro-phenyl)-2-oxo-oxazolidine-3-carboxylic acid [3-(4,4-diphenyl-piperidin-1-yl)-propyl]-amide as white foam (wt=0.03 g). It was converted into its hydrochloride salt. M.P. 112-115° C.; Anal. Calcd. for C30H32N3O3Cl2F.0.5 CHCl3 : C, 57.95; H, 5.18; N, 6.65. Found: C, 58.06; H, 5.74; N, 6.30.

reactant | 3-amino-propyl-4,4-diphenyl piperidine | 0.1 mmol, 0.04 g | NCCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H26N2
reactant | 4-(3-chloro-4-fluorophenyl)-2-oxo-oxazolidine-3-carboxylic acid-4-nitro-phenyl ester | 0.12 mmol, 0.04 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)N1C(OCC1C1=CC(=C(C=C1)F)Cl)=O | C16H10ClFN2O6
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-(3-Chloro-4-fluoro-phenyl)-2-oxo-oxazolidine-3-carboxylic acid [3-(4,4-diphenyl-piperidin-1-yl)-propyl]-amide | C1(=CC=CC=C1)C1(CCN(CC1)CCCNC(=O)N1C(OCC1C1=CC(=C(C=C1)F)Cl)=O)C1=CC=CC=C1 | C30H31ClFN3O3
